US04792570
To a mixture of 2,6-dimethyl-4-bromoanisole (4.14 g) and tetrakis (triphenylphosphine) palladium (0.69 g) in toluene (40 ml) and 2.0 molar aqueous sodium carbonate (20 ml) was added phenylboric acid (2. 7 g) in ethanol (10 ml). The reaction was heated at reflux for 16 hours, at which time a solution of phenylboric acid (1.0 g) in ethanol (3 ml) was added. The reaction was heated at reflux for a further 6 hours and then cooled to 25° C., and 30% hydrogen peroxide (1.0 ml) was added. The mixture was stirred for one hour, then poured into water and extracted with ether. The organic phase was dried and evaporated and the residue was chromatographed on silica gel, eluting with 9:1 hexane either, so as to afford 2,6-dimethyl-4-methoxybiphenyl.

reactant | 2,6-dimethyl-4-bromoanisole | 4.14 g | CC1=C(C(=CC(=C1)Br)C)OC | C9H11BrO
reactant | phenylboric acid | 7 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | phenylboric acid | 1.0 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | hydrogen peroxide | 1.0 ml | OO | H2O2
reactant | water | O | H2O
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium carbonate | 2.0 molar, 20 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | tetrakis (triphenylphosphine) palladium | 0.69 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2,6-dimethyl-4-methoxybiphenyl | CC1=C(C(=CC(=C1)OC)C)C1=CC=CC=C1 | C15H16O
